US04803200
β-[(3-Butoxypropyl)amino]-a-phenylbenzeneethanol.
A mixture of trans-stilbene oxide (1.96 g, 0.010 mole) and 3-(n-butyloxy)-1-propylamine (3.93 g, 0.030 mole) was heated at 140° C. for 5 hrs. After standing at ambient temperature for 18 hr, the mixture was dissolved in acetone (20 ml) and the solution poured into water (120 ml). The solid which formed was collected by filtration and dried under ambient conditions to yield 3.24 g of slightly wet solid (>100%). Recrystallization from tolueneisooctane gave 1.70 g of a white solid, m.p. 82°-84° C.

reactant | trans-stilbene oxide | 0.010 mole, 1.96 g | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | 3-(n-butyloxy)-1-propylamine | 0.030 mole, 3.93 g | C(CCC)OCCCN | C7H17NO
reactant | water | 120 ml | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | β-[(3-Butoxypropyl)amino]-a-phenylbenzeneethanol | >100% | C(CCC)OCCCNC(C(O)C1=CC=CC=C1)C1=CC=CC=C1 | C21H29NO2
